US07148236B2
A mixture of 4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenylamine (50 mg), 4-carboxythiazole (52 mg), 1-hydroxybenzotriazole (61 mg) and carbodiimide resin (1.7 mmol/g, 470 mg) in DMF (7 ml) was stirred at room temperature for 3 days. The mixture was filtered then passed through an SCX cartridge, eluting with methanol followed by 2M ammonia in methanol, providing N-{4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl]-4-thiazolecarboxamide as a white solid (55 mg)

reactant | 4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenylamine | 50 mg | CN1C2CC(CC1CC2)SC2=CC=C(C=C2)N | C14H20N2S
reactant | 4-carboxythiazole | 52 mg | C(=O)(O)C=1N=CSC1 | C4H3NO2S
reactant | 1-hydroxybenzotriazole | 61 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | carbodiimide | 470 mg | N=C=N | CH2N2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | N-{4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl]-4-thiazolecarboxamide | 55 mg | CN1C2CC(CC1CC2)SC2=CC=C(C=C2)NC(=O)C=2N=CSC2 | C18H21N3OS2
